US07253286B2
4-(4-(3,4-Dihydroquinazolin-2-one-3-yl)phenyloxy)-6,7-dimethoxyquinoline
6,7-Dimethoxy-4-(4-(2-aminophenyl)methylaminophenyloxy)quinoline (40 mg, 0.0996 mmol) was dissolved in dimethylformamide (0.5 ml), 1,1′-carbonyldiimidazole (19 mg, 0.1196 mmol) was added, and the mixture was stirred at 70° C. for 8 hours. After cooling to room temperature, the reaction solution was diluted with tetrahydrofuran, water was added, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was distilled off under reduced pressure. The residue was purified with a silica gel column (ethyl acetate-methanol system) and recrystallized with hexane-diethyl ether to obtain the title compound (3 mg, 0.0070 mmol, 7.05%) as colorless crystals.

reactant | 6,7-Dimethoxy-4-(4-(2-aminophenyl)methylaminophenyloxy)quinoline | 0.0996 mmol, 40 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NCC1=C(C=CC=C1)N | C24H23N3O3
reactant | 1,1′-carbonyldiimidazole | 0.1196 mmol, 19 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(4-(3,4-Dihydroquinazolin-2-one-3-yl)phenyloxy)-6,7-dimethoxyquinoline | 0.0070 mmol, 3 mg, 7.05% | N1C(N(CC2=CC=CC=C12)C1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O | C25H21N3O4
